US04968704
(i) 1-(Benzyloxycarbonyl)-4-piperidinemethanol
Dibenzyldicarbonate (28.6 g) was added portionwise to a stirred solution of 4-piperidinemethanol (11.3 g) in 1,4-dioxane (50 ml) and water (50 ml). The solution was stirred for 1 hour and then evaporated. Water was added to the residue and the mixture was extracted several times with ethyl acetate. The combined extracts were washed with water, dried (MgSO4) and evaporated to give an oil which was chromatographed on silica gel, eluting with ether. Earlier fractions contained impurity and the pure product was eluted in the later fractions. The product fractions were combined and evaporated to give a viscous oil, (18.45 g), which was used without further purification.

reactant | Dibenzyldicarbonate | 28.6 g | C(C1=CC=CC=C1)OC(=O)OC(=O)OCC1=CC=CC=C1 | C16H14O5
reactant | 4-piperidinemethanol | 11.3 g | N1CCC(CC1)CO | C6H13NO
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | 1-(Benzyloxycarbonyl)-4-piperidinemethanol | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CO | C14H19NO3
